US03990896
Preparation of α-Pivaloyl-α-(5-α-bromo-n-propylidene-3-hydantoinyl)-2'-chloro-5'-[α-(2,4-di-tert-amylphenoxy)butyramido]acetanilide
To a solution containing 4 g of potassium hydroxide dissolved in 15 ml of methanol, was added a solution containing 17 g of 5-α-bromo-n-propylidenehydantoin dissolved in 50 ml of dimethylformamide, and further was added dropwise a solution containing 25 g of α-pivaloyl-α-chloro-2'-chloro-5'-[α-(2,4-di-tert-amylphenoxy)butyramido]acetanilide dissolved in 250 ml of dimethylformamide. After being stirred for 2 hours at room temperature, the reaction mixture was poured into 2 liters of water, and extracted with 1 liter of ethyl acetate. The ethyl acetate layer was separated, washed with a dilute hydrochloric acid solution, washed with water and dried over anhydrous sodium sulfate. The ethyl acetate was distilled off under reduced pressure, and the residue was recrystallized from a solvent mixture of n-hexane and ethyl acetate, yielding 18 g of the coupler. The melting point was 129° to 131° C.

reactant | potassium hydroxide | 4 g | [OH-].[K+]
reactant | 5-α-bromo-n-propylidenehydantoin | 17 g | BrC(CC)=C1C(NC(N1)=O)=O | C6H7BrN2O2
reactant | α-pivaloyl-α-chloro-2'-chloro-5'-[α-(2,4-di-tert-amylphenoxy)butyramido]acetanilide | 25 g | C(C(C)(C)C)(=O)C(C(=O)NC1=C(C=CC(=C1)NC(C(CC)OC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)=O)Cl)Cl | C33H46Cl2N2O4
reactant | water | 2 liters | O | H2O
solvent | methanol | 15 ml | CO | CH4O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | α-Pivaloyl-α-(5-α-bromo-n-propylidene-3-hydantoinyl)-2'-chloro-5'-[α-(2,4-di-tert-amylphenoxy)butyramido]acetanilide | C(C(C)(C)C)(=O)C(C(=O)NC1=C(C=CC(=C1)NC(C(CC)OC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC)=O)Cl)N1C(NC(C1=O)=C(CC)Br)=O | C39H52BrClN4O6
